US07851463B2
134.4 N-[4-(1-Benzyl-pyrrolidin-3-yl)-2-fluoro-phenyl]-4-isopropyl-benzenesulfonamide
4-(1-Benzyl-pyrrolidin-3-yl)-2-fluoro-phenylamine (400 mg, 1.48 mmol) and 4-isopropylphenylsulfonyl chloride (324 mg, 1.48 mmol) were dissolved in tetrahydrofuran (25 ml). Triethylamine (0.62 ml, 4.44 mmol) was added and the reaction mixture stirred over night at room temperature (10% conversion) and subsequently refluxed for 4 h (30% conversion). Small portions of 4-isopropyl-phenylsulfonyl chloride and triethylamine were added and the reaction mixture was stirred 15 min at 150° C. in the microwave (CEM). This procedure was repeated until complete conversion was observed. The solvent was evaporated under reduced pressure, the residue treated with ethyl acetate (50 ml) and extracted twice with slightly acidic water. The organic layer was dried over magnesium sulfate, filtered, and the solvent evaporated under reduced pressure to give an oil (170 mg, 21%).

reactant | 4-(1-Benzyl-pyrrolidin-3-yl)-2-fluoro-phenylamine | 1.48 mmol, 400 mg | C(C1=CC=CC=C1)N1CC(CC1)C1=CC(=C(C=C1)N)F | C17H19FN2
reactant | 4-isopropylphenylsulfonyl chloride | 1.48 mmol, 324 mg | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
reactant | Triethylamine | 4.44 mmol, 0.62 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | N-[4-(1-Benzyl-pyrrolidin-3-yl)-2-fluoro-phenyl]-4-isopropyl-benzenesulfonamide | 170 mg, 21% | C(C1=CC=CC=C1)N1CC(CC1)C1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C(C)C)F | C26H29FN2O2S
